US07868180B2
A) Preparation of ethyl-4-(1-hydroxy-1-methylethyl)-2-propyl-1-(4-bromobenzyl)imidazole-5-carboxylate (VII)
The mixture of 240 ml acetonitrile, 20.7 g (150 mmol) of K2CO3, 18 g (75 mmol) of ethyl-4-(1-hydroxy-1-methylethyl)-2-propylimidazole-5-carboxylate and 20.4 g (81.6 mmol) of 4-bromobenzylbromide was heated under reflux temperature for 7 h. The suspension is cooled, filtered and concentrated under reduced pressure to approximately ⅓ of the starting volume and stirred at about 0° C. for 1 h. The precipitate is filtered and dried at 35° C. for 1 h and afterwards suspended in 218 ml of water. The mixture is stirred for 2 h, filtered and dried again. 21.56 g of the crude product were isolated. Crude product was recrystallized from acetonitrile (87%, 55% of the synthesis)

reactant | K2CO3 | 150 mmol, 20.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl-4-(1-hydroxy-1-methylethyl)-2-propylimidazole-5-carboxylate | 75 mmol, 18 g | C(C)OC(=O)C1=C(N=C(N1)CCC)C(C)(C)O | C12H20N2O3
reactant | 4-bromobenzylbromide | 81.6 mmol, 20.4 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
solvent | acetonitrile | 240 ml | C(C)#N | C2H3N
product | ethyl-4-(1-hydroxy-1-methylethyl)-2-propyl-1-(4-bromobenzyl)imidazole-5-carboxylate | 21.56 g | C(C)OC(=O)C1=C(N=C(N1CC1=CC=C(C=C1)Br)CCC)C(C)(C)O | C19H25BrN2O3
